US08097759B2
N-[3,5-Bis(trifluoromethyl)phenyl]-1-hydroxy-2-naphthamide (Compound No. 21)
Using 1-hydroxynaphthalene-2-carboxylic acid and 3,5-bis(trifluoromethyl)aniline as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 1-hydroxynaphthalene-2-carboxylic acid | OC1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O3
reactant | 3,5-bis(trifluoromethyl)aniline | FC(C=1C=C(N)C=C(C1)C(F)(F)F)(F)F | C8H5F6N
product | N-[3,5-Bis(trifluoromethyl)phenyl]-1-hydroxy-2-naphthamide | Yield: 65.5% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=O)C1=C(C2=CC=CC=C2C=C1)O)(F)F | C19H11F6NO2
